US07084270B2
N-FMOC-O-t-Butyl-L-serine (10 g, 26.07 mmol) (Bachem) was dissolved in dichloromethane (135 mL). Pyridine (2.11 mL, 26.07 mmol) (Aldrich) and cyanuric fluoride (3.52 g, 26.07 mmol) (Aldrich) were successively added at room temperature and the mixture was stirred overnight. Ice cold water (100 mL) was added and the resulting slurry was filtered. The filtrate was poured into a separatory funnel and the layers were separated. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford N-FMOC-O-t-butyl-L-serinyl fluoride as a colorless oil which solidified upon standing. (Yield 9.79 g., 97%).

reactant | N-FMOC-O-t-Butyl-L-serine | 26.07 mmol, 10 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](COC(C)(C)C)C(=O)O | C22H25NO5
reactant | Pyridine | 26.07 mmol, 2.11 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 26.07 mmol, 3.52 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
product | N-FMOC-O-t-butyl-L-serinyl fluoride | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](COC(C)(C)C)C(=O)F | C22H24FNO4
